US07981903B2
To 5-[4-(methyloxy)-3-nitrophenyl]-1-propyl-1,2,3,6-tetrahydropyridine (0.25 g, 0.91 mmol) in absolute ethanol (50 mL) was added Sn2CL2×2H2O (1.22 g, 5.41 mmol, Aldrich) and a catalytic HCl (1 mL, 1M solution in dioxanes). After stirring overnight, the reaction was quenched with saturated sodium bicarbonate solution (50 mL), stirred at RT for 1 hr, solids removed by vacuum filtration through a celite pad and rinsed with methanol. The solvent was removed under reduced pressure, aqueous layer extracted with dichloromethane (2×50 mL), combined organic extracts adsorbed to silica gel and purified by silica gel chromatography (dichloromethane to 5% methanol/dichloromethane+0.1% NH4OH) to afford 2-(methyloxy)-5-(1-propyl-1,2,5,6-tetrahydro-3-pyridinyl)aniline (0.145 g, 65%). 1H NMR (400 MHz, CDCl3) δ ppm 0.94 (t, J=7.52 Hz, 3 H) 1.56-1.66 (m, 2 H) 2.28-2.36 (m, 2 H) 2.43-2.48 (m, 2 H) 2.58 (t, J=5.87 Hz, 2 H) 3.23-3.29 (m, 2 H) 3.84 (s, 3 H) 5.94-6.01 (m, 1 H) 6.68-6.76 (m, 3 H). ESIMS (M+H)+=247.

reactant | 5-[4-(methyloxy)-3-nitrophenyl]-1-propyl-1,2,3,6-tetrahydropyridine | 0.91 mmol, 0.25 g | COC1=C(C=C(C=C1)C1=CCCN(C1)CCC)[N+](=O)[O-] | C15H20N2O3
reactant | HCl | 1M, 1 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-(methyloxy)-5-(1-propyl-1,2,5,6-tetrahydro-3-pyridinyl)aniline | 0.145 g, 65% | COC1=C(N)C=C(C=C1)C=1CN(CCC1)CCC | C15H22N2O
